US04772599
5,6-Dihydro-7-(2-hydroxyethoxycarbonyl)-5-methyl-3-(5-methyl-1,2,4-oxadiazol-3-yl)-6-oxo-4H-imidazo(1,5-a)(1,4)benzodiazepine
7-Ethoxycarbonyl-5,6-dihydro-5-methyl-3-(5-methyl-1,2,4-oxadiazol-3-yl)-6-oxo-4H-imidazo(1,5-a)(1,4)benzodiazepine (500 mg) was dissolved in ethylene glycol (20 ml) and 3 drops of concentrated sulphuric acid were added. The solution was then stirred at 130° C. for 24 hours, cooled and partitioned between water (150 ml) and CHCl3 (150 ml). The organic phase was separated, dried over Na2SO4, and evaporated to give the title compound as white crystals.

reactant | 7-Ethoxycarbonyl-5,6-dihydro-5-methyl-3-(5-methyl-1,2,4-oxadiazol-3-yl)-6-oxo-4H-imidazo(1,5-a)(1,4)benzodiazepine | 500 mg | C(C)OC(=O)C1=CC=CC2=C1C(N(CC=1N2C=NC1C1=NOC(=N1)C)C)=O | C18H17N5O4
reactant | ethylene glycol | 20 ml | C(CO)O | C2H6O2
catalyst | sulphuric acid | 3 drops | S(O)(O)(=O)=O | H2O4S
product | 5,6-Dihydro-7-(2-hydroxyethoxycarbonyl)-5-methyl-3-(5-methyl-1,2,4-oxadiazol-3-yl)-6-oxo-4H-imidazo(1,5-a)(1,4)benzodiazepine | OCCOC(=O)C1=CC=CC2=C1C(N(CC=1N2C=NC1C1=NOC(=N1)C)C)=O | C18H17N5O5
